US08211908B2
To 3.1 g of 1-(1,3-dioxolan-2-ylmethyl)-1,7-naphthyridin-2(1H)-one, 30 mL of an 80% aqueous trifluoroacetic acid solution was added, and the mixture was stirred at 70 to 80° C. for 2 hours. The reaction mixture was cooled to room temperature, then 30 mL of an 80% aqueous trifluoroacetic acid solution was added thereto, the mixture was stirred at 70 to 80° C. for 3 hours 30 minutes, and the temperature was increased to 75 to 85° C. and the mixture was stirred for 2 hours. Thereto was further added 30 mL of an 80% aqueous trifluoroacetic acid solution, and the mixture was stirred at 80 to 90° C. for 2 hours 30 minutes. The reaction mixture was cooled to room temperature, and then left overnight. The solvent was distilled off under reduced pressure, and the resultant residue was charged with chloroform and water and adjusted to pH 10.4 with a 20% aqueous sodium hydroxide solution. Sodium chloride was added thereto, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 2.5 g of (2-oxo-1,7-naphthyridin-1(2H)-yl)acetaldehyde as a yellow oily substance.

reactant | 1-(1,3-dioxolan-2-ylmethyl)-1,7-naphthyridin-2(1H)-one | 3.1 g | O1C(OCC1)CN1C(C=CC2=CC=NC=C12)=O | C12H12N2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (2-oxo-1,7-naphthyridin-1(2H)-yl)acetaldehyde | 2.5 g | O=C1N(C2=CN=CC=C2C=C1)CC=O | C10H8N2O2
